US05968967
1-t-Butoxycarbonyl-4-hydroxypiperidine
A mixture of 131 g of di-t-butyl dicarbonate and 500 ml of tetrahydrofuran was added dropwise to a mixture of 50 g of 4-hydroxypiperidine and 50 ml of water at room temperature over 1 hour, and the resulting mixture was stirred for 22.5 hours. The reaction solution was evaporated under reduced pressure, and after addition of water, the residue was extracted with chloroform. The organic layer was dried over sodium sulfate, and the insolubles were filtered off. The solvent was removed by evaporation. The resulting residue was crystallized in normal hexane:diethyl ether=1:1 to give 101 g of the title compound as colorless crystals.

reactant | di-t-butyl dicarbonate | 131 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | 4-hydroxypiperidine | 50 g | OC1CCNCC1 | C5H11NO
solvent | water | 50 ml | O | H2O
product | 1-t-Butoxycarbonyl-4-hydroxypiperidine | 101 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
